US09290451B2
b) 6-Cyclopropylmethoxy-5-(3,3-difluoro-pyrrolidin-1-yl)-pyridine-2-carboxylic acid
Sodium hydride (0.27 g, 8 mmol) was added in portions to cyclopropylmethanol (CAN 2516-33-8, 6 mL) and the mixture was stirred at room temperature for 2 hours. 6-Chloro-5-(3,3-difluoro-pyrrolidin-1-yl)-pyridine-2-carboxylic acid methyl ester (0.45 g, 1.6 mmol) was added to the mixture and the resulting solution was stirred in a sealed tube at 110° C. overnight. After concentration under reduced pressure, water (15 mL) was added to the residue and the solution was acidified with hydrochloric acid (6 N). The aqueous solution was extracted with ethyl acetate (3×20 mL) and the combined organic phase was washed with brine (20 mL), dried over anhydrous sodium sulfate, filtered and concentrated to give the target compound which was used directly in the next step without further purification; MS (EI): m/e=299.1 [M+H]+.

reactant | Sodium hydride | 8 mmol, 0.27 g | [H-].[Na+]
reactant | cyclopropylmethanol | 6 mL | C1(CC1)CO | C4H8O
reactant | 6-Chloro-5-(3,3-difluoro-pyrrolidin-1-yl)-pyridine-2-carboxylic acid methyl ester | 1.6 mmol, 0.45 g | COC(=O)C1=NC(=C(C=C1)N1CC(CC1)(F)F)Cl | C11H11ClF2N2O2
product | 6-Cyclopropylmethoxy-5-(3,3-difluoro-pyrrolidin-1-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CC(CC1)(F)F | C14H16F2N2O3
